US08084448B2
5-{4-[3-(3,4-Dihydro-1H-isoquinolin-2-yl)-3-oxopropyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid and tetrahydroisoquinoline analogous to Example 97, steps D, E and F: (M−1)−=414.

reactant | 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCC(=O)O | C23H30N2O6SSi
reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 5-{4-[3-(3,4-Dihydro-1H-isoquinolin-2-yl)-3-oxopropyl]-2-hydroxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C1N(CCC2=CC=CC=C12)C(CCC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O)=O | C20H21N3O5S
